Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],76.2465554432233
[O:1](/[C:2](=[N:3]/[H:8])[H:7])[C:5]1=[C:6]([H:11])[C:4]1([H:9])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],32.743296770860304
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:9])[H:10].[C:3](=[O:4])([H:8])[H:12],61.60802933472079
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][N:6]=[C:5]=[C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],75.5968878864022
[C:1]([N:2]([C:3]1=[N:5][C:6]([H:13])([H:14])[O:4]1)[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],45.81812115887529
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:7]([C:2](=[O:3])[C:4]([C:5](=[C:6]([H:11])[H:15])[H:14])([H:12])[H:13])([H:16])[H:17])([H:8])([H:9])[H:10],81.5789191169232
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[N:7])[C:4]([H:14])([H:15])[O:5]1)([H:8])([H:9])[H:10].[C:3]([H:11])([H:12])([H:13])[H:16],106.55393760018801
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1](=[C:6]([C:5]([O:4][C:3]([C:2][H:9])([H:10])[H:11])([H:12])[H:13])[H:14])([H:7])[H:8],93.9223756961676
[C:1]([C@:2]1([H:16])[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],36.7586102544087
[C:4]([C:5]([C:6]([O:7][H:9])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:16].[N:1](=[C:2]=[O:3])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],58.01577070626087
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[H:8][H:14].[O:1]=[C:2]([C@@:7]1([H:15])[C:3]([H:10])([H:11])[C@:4]12[C:5]([H:12])([H:13])[O:6]2)[H:9],80.98627267116359
[N:4]#[C:5][H:9].[O:1]1[C:2]([H:8])=[C:3]=[O+:7][N-:6]1>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],36.46755102608708
[C:1]([O:2][C:3]([C:6](=[O:7])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],57.539251247958596
[H:7][H:11].[N:1]1=[C:3]([H:9])[C@:2]1([C@@:6]1([H:12])[C:4]([H:10])=[N:5]1)[H:8]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12],35.66127079855169
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:7])[O:3][C:4]([H:8])([H:9])[C:5]1=[C:6])[H:10],89.5326718117947
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],63.200875806190794
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:4]([C:2](=[C:3]([H:8])[H:9])[C:5](=[O:6])[H:12])([H:10])[H:11])[H:7],70.5640212130713
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([N-:4][H:11])=[C:5]=[O:6])[H:10])([H:7])[H:8].[H:9][H:12],86.9149772437145
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]12[O:5][C@@:6]2([O:7][H:8])[H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],36.899127464359395
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4](=[C:5]([H:13])[H:14])[H:12])[O:6][H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,95.36032574313448
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10],59.9801681888599
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])[H:11].[C:5]1([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1,111.84372663637899
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C:3]([H:12])([H:13])[C:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17],88.89323096982409
